US05736534
4-(5-Fluoro-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 81% yield from 5-fluoro-indoline (1.1 eq.) and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq)in i-PrOH. (M.P. 190°-191° C.; LC-MS: 326 (MH+); anal. RP18-HPLC RT: 4.40 min.).

reactant | 5-fluoro-indoline | 1.1 eq. | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(5-Fluoro-2,3-dihydro-indol-1-yl)-6,7-dimethoxy-quinazoline | 81% yield | FC=1C=C2CCN(C2=CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C18H16FN3O2
